US06335409B1
A solution of 12 g of trans-4′-[4-(3-oxo-propyl)-cyclohexyl]-biphenyl-4-carbonitrile (preparation: Mol. Cryst. Liq. Cryst. 1985, Vol. 131, 327) in 100 ml methanol/ether (9:1) was added dropwise at 0° C. within 5 minutes to a suspension of 1.39 g of sodium borohydride in 30 ml of methanol/ether (9:1). After 45 minutes a further 1 g of sodium borohydride was added. After a further hour the reaction was interrupted and the mixture was partitioned between methylene chloride and 1N hydrochloric acid. Thereupon, the organic phase was washed several times with water, dried over magnesium sulphate, filtered and evaporated. Crystallization from ethyl acetate/methylene chloride gave 11.5 g of trans-4′-[4-(3-hydroxy-propyl)-cyclohexyl]-biphenyl-4-carbonitrile as yellowish crystals.

reactant | trans-4′-[4-(3-oxo-propyl)-cyclohexyl]-biphenyl-4-carbonitrile | 12 g | O=CCC[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C22H23NO
reactant | sodium borohydride | 1.39 g | [BH4-].[Na+]
reactant | sodium borohydride | 1 g | [BH4-].[Na+]
solvent | methanol ether | 100 ml | CO.CCOCC
solvent | methanol ether | 30 ml | CO.CCOCC
product | trans-4′-[4-(3-hydroxy-propyl)-cyclohexyl]-biphenyl-4-carbonitrile | 11.5 g | OCCC[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C22H25NO
